2164-01-16 07:48:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -          Received total of 2.2L of NS while in MICU (in addition to
   800cc in ED), total UOP 275cc.
   -          MAPs improved from 51
   -          Brought down on NC from 4L to 2L (Baseline per daughter)
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2164-1-15**] 09:57 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history: No changes
   Review of systems is unchanged from admission except as noted below
   Review of systems: (Through an interpreter) Patient states her cough is
   stable, no fever, chills, no chest pain, SOB stable, no abdominal pain.
   The patient admits to some chest tightness when coughing but denies
   pleuritic pain.
   Flowsheet Data as of  [**2164-1-16**] 07:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.1
C (97
   HR: 60 (60 - 61) bpm
   BP: 99/49(59) {81/40(33) - 148/67(94)} mmHg
   RR: 14 (9 - 23) insp/min
   SpO2: 95%
   Heart rhythm: V Paced
   Wgt (current): 75 kg (admission): 75 kg
             Total In:
                                                                    970 mL
                                                                  1,476 mL
   PO:
             TF:
   IVF:
                                                                    970 mL
                                                                  1,476 mL
   Blood products:
   Total out:
                                                                    220 mL
                                                                    255 mL
   Urine:
                                                                    220 mL
                                                                    255 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    750 mL
                                                                  1,221 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///21/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Anxious
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Diminished: )
   Abdominal: Soft, Distended, No(t) Tender:
   Extremities: No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Not assessed, No(t) Rash:
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): x3, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   263 K/uL
   9.6 g/dL
   168 mg/dL
   5.4 mg/dL
   21 mEq/L
   4.0 mEq/L
   68 mg/dL
   104 mEq/L
   137 mEq/L
   29.0 %
   5.7 K/uL
        [image002.jpg]
                            [**2164-1-15**]  11:16 PM
   WBC
   5.7
   Hct
   29.0
   Plt
   263
   Cr
   5.4
   Glucose
   168
   Other labs: PT / PTT / INR:20.9/30.9/2.0, Ca++:8.2 mg/dL, Mg++:2.7
   mg/dL, PO4:6.2 mg/dL
   Assessment and Plan
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
 ELECTROLYTE & FLUID DISORDER, OTHER
 URINARY TRACT INFECTION (UTI)
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
   A/P: 79F Russian speaking s/p CABG, dCHF s/p dual pacemaker, DMII, AF,
   CRI that presents with decreased PO and hypotension likely [**2-19**] to
   decresed PO in setting of UTI and potential PNA.
   .
   # Hypotension: Pt with BP in ED to 83/44. Mentating at all times. Foley
   now in place and pt was responsive to fluids. Likely mulifactorial but
   the differential includes sepsis (UTI vs PNA) vs intravascular
   depletion secondary to decreased PO. Further evidence with increase in
   Cr. 5.6 from 2.8. Lactate 1.2.
   - IVF resuscitation at NS at 125cc/hr given dCHF hx
   - Coverage for UTI with Ceftriaxone
   - Coverage for HAP with Vanc / Ceftriaxone / Levaquin
   - UOP goal of 30cc/hr
   .
   # ARF: Patients baseline Cr [1.6-1.9], most recent Cr is 2.4 on [**1-6**].
   Likely pre-renal given patient.. 5.6 in ED, 5.4 last PM.  Received 3L
   total since admission although roughtly putting out only 10cc/hr.  FeNa
   .51, FeUrea 14.7.
   - PM Lytes
   - Continue fluid resuscitation with 125cc/hr with PRN 250 cc boluses
   .
   # UTI: + UA. Pt with quinolone resistance in the past.
   - Cont Ceftriaxone
   - f/u UCx
   .
   # PNA: Question underlying left sided infiltrate. Pt recently in and
   out of hospital. No fevers, chills, leukocytosis. No reported sputum.
   Persistent Cough.
   - Will initiate Vanc
   - Double coverage for GNRs (Ceftriaxone, Levaquin).
   - Sputum Culture
   .
   # Bilateral Pleural Effusions: New on CXR. Pt on 4L NC. Pt not on home
   02 per daughter.
   - Will d/w team for potential therapeutic thoracentesis once BP
   stabilized.
   .
   # dCHF: Pt's last ECHO EF 50% from [**12-13**]. Severe TR with gradient
   55-60. Pt on Lasix 80mg PO Daily
   - Holding Lasix
   - Holding BP Meds (Metoprolol, Dilt)
   .
   .
   # AF: Pt on Amiodarone for long-term AF. Previously on Warfarin 1mg PO
   Daily.
   - Will monitor on tele while in unit.
   .
   # DMII: Pt not on insulin. Received 4 units in ED.
   - FS QID with HISS
   .
   # Hypothyroid: Last THS 6.8 in [**Month (only) 594**]
   - Cont Synthroid
   .
   # FEN: NS at 125cc/hr / Replete PRN / Diabetic, Cardiac Diet
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2164-1-15**] 07:39 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition: